US08912338B2
Preparation of N-Phenyl-5-(pyridin-3-yl)-1,3,4-thiadiazol-2-amine
Powdered iron(III) chloride hexahydrate (5.1 g, 19 mmol, 4.0 equiv) was added to a stirred suspension of (E)-4-phenyl-1-(pyridin-3-ylmethylene)thiosemicarbazide (1.2 g, 4.7 mmol, 1.0 equiv) in absolute ethanol (47 mL) at 23° C. The resulting dark brown suspension was heated to 95° C. and stirred for 2 h. The cooled reaction mixture was concentrated by rotary evaporation. The residue was diluted with a 1M solution of sodium hydroxide (200 mL) and extracted with dichloromethane (8×75 mL). The combined organic layers were dried (Na2SO4), gravity-filtered, and concentrated by rotary evaporation to afford the title compound as a tan solid (300 mg, 25%): mp 252-255° C.; IR (KBr thin film) 3460 (w), 3260 (w), 3198 (w), 2921 (w), 2851 (w), 2788 (w), 1620 (m), 1566 (m), 1501 (s) cm−1; 1H NMR (300 MHz, DMSO-d6) δ 10.65 (s, 1H), 9.05 (d, J=2 Hz, 1H), 8.67 (dd, J=5, 2 Hz, 1H), 7.66 (m, 2H), 7.56 (dd, J=8, 5 Hz, 1H), 7.38 (m, 2H), 7.05 (m, 1H); ESIMS m/z 255 ([M+H]+). Precursors N-methyl-5-[4-(trifluoromethyl)pyridin-3-yl]-1,3,4-thiadiazol-2-amine, N-methyl-5-[4-(trifluoromethyl)pyridin-3-yl]-1,3,4-thiadiazol-2-amine, N-methyl-5-pyrimidin-5-yl-1,3,4-thiadiazol-2-amine, 5-(6-chloropyridin-3-yl)-N-methyl-1,3,4-thiadiazol-2-amine, 5-(5-fluoropyridin-3-yl)-N-methyl-1,3,4-thiadiazol-2-amine, 5-(5-chloropyridin-3-yl)-N-methyl-1,3,4-thiadiazol-2-amine, N-methyl-5-(2-methylpyrimidin-5-yl)-1,3,4-thiadiazol-2-amine, N,N-dimethyl-5-[5-(methylamino)-1,3,4-thiadiazol-2-yl]pyrimidin-2-amine, N-methyl-5-[5-(trifluoromethyl)pyridin-3-yl]-1,3,4-thiadiazol-2-amine, N-methyl-5-pyridin-4-yl-1,3,4-thiadiazol-2-amine, and N-methyl-5-(5-methylpyridin-3-yl)-1,3,4-thiadiazol-2-amine were prepared as described in Example 3.

reactant | (E)-4-phenyl-1-(pyridin-3-ylmethylene)thiosemicarbazide | 4.7 mmol, 1.2 g, 1.0 equiv | C1(=CC=CC=C1)NC(N/N=C/C=1C=NC=CC1)=S | C13H12N4S
solvent | ethanol | 47 mL | C(C)O | C2H6O
catalyst | iron(III) chloride hexahydrate | 19 mmol, 5.1 g, 4.0 equiv | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
product | N-Phenyl-5-(pyridin-3-yl)-1,3,4-thiadiazol-2-amine | 300 mg, 25% | C1(=CC=CC=C1)NC=1SC(=NN1)C=1C=NC=CC1 | C13H10N4S
